US09428490B2
(1-Benzhydryl-3-fluoroazetidin-3-yl)methanamine (0.5 g, 1.0 eq.) was dissolved in methanol and HCHO (0.138 g, 2.5 eq.) and NaCNBH3 (0.47 g, 4.0 eq.) were added at 0° C. The reaction mixture was stirred for 14 h at room temperature, then quenched with aqueous ammonium chloride solution and extracted with DCM. The organic layer was washed with brine, dried over sodium sulfate, and concentrated under reduced pressure to afford 150 mg of 1-(1-benzhydryl-3-fluoroazetidin-3-yl)-N,N-dimethylmethanamine (100%), which was used in the next step without further purification.

reactant | (1-Benzhydryl-3-fluoroazetidin-3-yl)methanamine | 0.5 g, 1.0 eq. | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(F)CN | C17H19FN2
reactant | HCHO | 0.138 g, 2.5 eq. | C=O | CH2O
reactant | NaCNBH3 | 0.47 g, 4.0 eq. | [BH3-]C#N.[Na+]
solvent | methanol | CO | CH4O
product | 1-(1-benzhydryl-3-fluoroazetidin-3-yl)-N,N-dimethylmethanamine | 150 mg, 100% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(F)CN(C)C | C19H23FN2
